US04003884
In analogy to Example 8(b) 3.6 g (6.8 mmols) of H-Cys(But)-Arg-Pro-NH-C2H5 . 2 HCl were reacted with 3 g of Z-D-Leu-OTcp and worked up. The oily residue (6.1 g of contaminated Z-D-Leu-Cys(But)-Arg-Pro-NH--C2H5) was hydrogenated catalytically in analogy to Example 8(b). Yield: 2.5 g (57%). The compound was strongly contaminated and purified over Sephadex LH 20 in analogy to Example 1(a). Yield: 1.734 g (40%) of H-D-Leu-Cys(But)-Arg-Pro-NH-C2H5 -diacetate. The 1.734 g (2.7 mmols) of H-D-Leu-Cys(But)-Arg-Pro-NH-C2H5 -acetate were reacted in analogy to Example 8(b) with 1.33 g of Z-Ser-Tyr(Bzl)-OH, 0.71 ml of N-ethyl morpholine, 3.65 mg of HOBt and 595 mg of DCC in 5 ml of dimethylformamide and worked up. The substance obtained (2.45 g of Z-Ser-Tyr(Bzl)-D-Leu-Cys(But)-Arg-Pro-NH-C2H5) was hydrogenated catalytically in analogy to Example 8(b) and purified over Sephadex LH 20.

reactant | H-Cys(But)-Arg-Pro-NH-C2H5 | N[C@@H](CSC(C)(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC)CCC1 | C20H39N7O3S
reactant | HCl | Cl | ClH
reactant | H-D-Leu-Cys(But)-Arg-Pro-NH-C2H5 acetate | 2.7 mmols, 1.734 g | N[C@H](CC(C)C)C(=O)N[C@@H](CSC(C)(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC)CCC1.C(C)(=O)[O-]
reactant | Z-Ser-Tyr(Bzl)-OH | 1.33 g | N([C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C27H28N2O7
reactant | N-ethyl morpholine | 0.71 ml | C(C)N1CCOCC1 | C6H13NO
reactant | DCC | 595 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | HOBt | 3.65 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
product | Z-Ser-Tyr(Bzl)-D-Leu-Cys(But)-Arg-Pro-NH-C2H5 | 2.45 g | N([C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@H](CC(C)C)C(=O)N[C@@H](CSC(C)(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC)CCC1)C(=O)OCC1=CC=CC=C1 | C53H76N10O10S
